US07569600B2
In a small RB flask THF (1.5 mL) was placed followed by diisopropylamine (80 μl, 0.57 mmol) and the mixture was cooled to −40° C. n-BuLi (1.6 M, 0.34 mL, 0.54 mmol) was added dropwise. It was stirred at this temperature for 20 min. The mixture was cooled to −78° C. and 3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (200 mg, 0.47 mmol) in THF (2 mL) was added dropwise. Stirring at −78° C. was continued for 30 min. Tributyl borane (1M in ether, 0.48 mL) was added and the mixture was allowed to come to room temperature over a period of 1 h. This solution was added to a suspension of CuCN (47 mg) in THF (1 mL) cooled to −30° C. The mixture was stirred at this temperature for 20 min. 3-Bromocyclohexene (90%, 60 μl, 0.47 mmol) was added and the mixture was allowed to come to room temperature slowly. It was stirred at this temperature for 16 h. The mixture was cooled to 0° C. and 10% NaOH (0.8 mL) was added followed by dropwise addition of 30% H2O2 (0.27 mL). The mixture was stirred for 10 min. It was diluted with EtOAc, washed with water and brine, dried (MgSO4) and evaporated. Pure 5-cyclohex-2-enyl-3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester was obtained on chromatography over silica gel (hexane:EtOAc—9:1, 4:1 and 7:3 eluents) (153 mg, 64%).

reactant | diisopropylamine | 0.57 mmol, 80 μl | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 0.54 mmol, 1.6 M, 0.34 mL | [Li]CCCC
reactant | 3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.47 mmol, 200 mg | COC(=O)C=1SC=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC2(OCCO2)CC1 | C22H31NO5S
reactant | Tributyl borane | 1M, 0.48 mL | C(CCC)B(CCCC)CCCC | C12H27B
reactant | CuCN | 47 mg | C(#N)[Cu]
reactant | 3-Bromocyclohexene | 0.47 mmol, 60 μl | BrC1C=CCCC1 | C6H9Br
reactant | NaOH | 0.8 mL | [OH-].[Na+]
reactant | H2O2 | 0.27 mL | OO | H2O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 5-cyclohex-2-enyl-3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC2(OCCO2)CC1)C1C=CCCC1 | C28H39NO5S
